US05236900
Sodium borohydride (0.55 g, 14.6 mmol) was added to a solution of 6-undecanone (1.66 g, 9.8 mmol) in 50 ml methanol, and the mixture was stirred at room temperature 2 hours. Solvent was evaporated and water was added to the residue which was extracted with CH2Cl2. The extracts were dried over anhydrous potassium carbonate, filtered, and the solvent was evaporated to leave crude 6-undecanol. The procedure of example 13 a. was followed but the crude 6-undecanol was substituted in place of 9-dodecyn-1-ol to obtain crude 6-undecanyl methanesulfonate. The crude 6-undecanyl methanesulfonate was dissolved in 20 ml acetonitrile and 1 g potassium cyanide were added, as well as 50 mg 18-crown-6, and 100 mg Et4NCN. The mixture was stirred and heated at reflux for 4 days. The mixture was cooled, poured into 5% aqueous NaOH, and extracted with CH2Cl2. The extracts were dried over Na 2 SO4. The extracts were filtered, and the solvent was evaporated. The residue was chromatographed on silica gel eluting with EtOAc-hexanes (2:98) to obtain crude 3-pentylheptanenitrile in low yield. This nitrile was dissolved in 30 ml THF, 1 ml 1M BH3 -THF solution was added, and the mixture was stirred at reflux for 4 hours. Water and 1N NaOH were added. The mixture was concentrated and water was added. The mixture was extracted with CH2Cl2. The extracts were dried over Na2SO4, filtered, and the solvent was evaporated to leave the title compound as an oil (57 mg, 3% yield overall): C12H27N (185.36); 1H-NMR (CDCl3) δ2.64 (d,2), 1.28 (m,17), 0.89 (t,6).

reactant | 6-undecanyl methanesulfonate | CS(=O)(=O)OC(CCCCC)CCCCC | C12H26O3S
reactant | potassium cyanide | 1 g | [C-]#N.[K+]
reactant | 18-crown-6 | 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3-pentylheptanenitrile | C(CCCC)C(CC#N)CCCC | C12H23N
